 
.subckt tlv2372dual 1in- 1in+ 1out 2in+ 2in- 2out vcc vee
.include TLV2372.LIB
XU1A 1in+ 1in- vcc vee 1out TLV2372
XU1B 2in+ 2in- vcc vee 2out TLV2372
.ends
